US07241812B2
tert-butyl (S)-2-(4-(4-(thiophen-2-yl)butoxy)phenylcarbamoyl)-1-hydroxypropan-2-ylcarbamate
This compound was synthesized from 2-(4-(4-nitrophenoxy)butyl)thiophene (280 mg), N-(Boc)-α-methylserine (205 mg), HATU (442 mg), and DIPEA (506 μl) following the procedure described in Example 5(A) to yield 280 mg product (62% yield). 1H NMR (400 MHz, DMSO-d6) δ 9.24 (s, 1H), 7.44 (m, 2H), 7.29 (m, 1H), 6.9 (m, 1H), 6.84–6.81 (m, 3H), 5.00 (t, 1H), 3.93 (t, 2H), 3.61 (m, 2H), 2.84 (t, 2H), 1.73 (m, 4H), 1.48 (overlapping singlets, 9H).

reactant | 2-(4-(4-nitrophenoxy)butyl)thiophene | 280 mg | [N+](=O)([O-])C1=CC=C(OCCCCC=2SC=CC2)C=C1 | C14H15NO3S
reactant | N-(Boc)-α-methylserine | 205 mg | C(=O)(OC(C)(C)C)N[C@@](CO)(C(=O)O)C | C9H17NO5
reactant | HATU | 442 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DIPEA | 506 μl | CCN(C(C)C)C(C)C | C8H19N
product | tert-butyl (S)-2-(4-(4-(thiophen-2-yl)butoxy)phenylcarbamoyl)-1-hydroxypropan-2-ylcarbamate | 280 mg, 62% yield | S1C(=CC=C1)CCCCOC1=CC=C(C=C1)NC(=O)[C@@](CO)(C)NC(OC(C)(C)C)=O | C23H32N2O5S
